US07906511B2
4-Methanesulfonyloxymethyl-2-methylsulfinylpyrimidine (Reference Compound No. 9-1)
m-Chloroperoxybenzoic acid (75%, 2.4 g, 10 mmol) was added to a solution of 4-methanesulfonyloxymethyl-2-methylthiopyrimidine (2.4 g, 10 mmol, Reference Compound No. 8-2) in anhydrous methylene chloride (30 mL) and the mixture was stirred for 15 minutes under ice-cooling. m-Chloroperoxybenzoic acid (0.29 g, 1.3 mmol) was added thereto and the whole was stirred for 10 minutes under ice-cooling. The reaction mixture was diluted with ethyl acetate (100 mL), washed twice with saturated aqueous sodium hydrogencarbonate solution (30 mL), and then washed with brine (30 mL). The aqueous layer was extracted twice with chloroform (100 mL), then the extract was mixed with the ethyl acetate layer, and the whole was dried over anhydrous magnesium sulfate. The solvent was concentrated under reduced pressure to give 2.2 g of the title Reference Compound as a colorless oil (Yield: 88%).

reactant | m-Chloroperoxybenzoic acid | 10 mmol, 2.4 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | 4-methanesulfonyloxymethyl-2-methylthiopyrimidine | 10 mmol, 2.4 g | CS(=O)(=O)OCC1=NC(=NC=C1)SC | C7H10N2O3S2
reactant | m-Chloroperoxybenzoic acid | 1.3 mmol, 0.29 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
solvent | methylene chloride | 30 mL | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 4-Methanesulfonyloxymethyl-2-methylsulfinylpyrimidine | Yield: 88% | CS(=O)(=O)OCC1=NC(=NC=C1)S(=O)C | C7H10N2O4S2
